US07585875B2
To a mixture of 8.7 g (38 mmol) of 4-chloro-1-(4-fluorophenyl)pent-1-yn-3-one and 10 g (45 mmol) of N-aminopyridinium iodide in 140 ml of acetonitrile was added dropwise 11 g of DBU in 50 ml of acetonitrile at 0° C. for 20 minutes under a nitrogen atmosphere. The reaction was then stirred at RT overnight. After evaporation of the solvent, the crude mixture was purified on an Al2O3 column, and the desired product recrystallized from ethyl acetate-hexane to obtain 200 mg of 1-(2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl)propan-1-one. Compound 1070.

reactant | 4-chloro-1-(4-fluorophenyl)pent-1-yn-3-one | 38 mmol, 8.7 g | ClC(C(C#CC1=CC=C(C=C1)F)=O)C | C11H8ClFO
reactant | N-aminopyridinium iodide | 45 mmol, 10 g | [I-].N[N+]1=CC=CC=C1
reactant | DBU | 11 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 140 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-(2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl)propan-1-one | 200 mg | FC1=CC=C(C=C1)C1=NN2C(C=CC=C2)=C1C(CC)=O | C16H13FN2O
